US06500822B2
Propyl-(1,2,3,4-tetrahydro-naphthalen-2-yl)-amine
To a solution of 3,4-dihydro-1-H-naphthalen-2-one (5 g, 34 mmol) in 1,2-dichloroethane (250 mL), propyl amine (2.8 mL, 34 mmol) was added, followed by addition of sodium triacetoxyborohydride (22 g, 102 mmol). The reaction was stirred at ambient temperature under nitrogen for 24 hours, at which time it was concentrated in vacuo. The remaining solid was partitioned between 1 M sodium hydroxide and ethyl acetate. The ethyl acetate was washed with brine, dried over magnesium sulfate, and filtered. The filtrate was acidified with 1 M HCl in ether and 6.3 g of propyl-(1,2,3,4-tetrahydro-naphthalen-2-yl)-amine was collected as a pale pink precipitate.

reactant | 3,4-dihydro-1-H-naphthalen-2-one | 34 mmol, 5 g | C1C(CCC2=CC=CC=C12)=O | C10H10O
reactant | propyl amine | 34 mmol, 2.8 mL | C(CC)N | C3H9N
reactant | sodium triacetoxyborohydride | 102 mmol, 22 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 250 mL | ClCCCl | C2H4Cl2
product | Propyl-(1,2,3,4-tetrahydro-naphthalen-2-yl)-amine | C(CC)NC1CC2=CC=CC=C2CC1 | C13H19N
